US04432984
2-chloromethyl 7-nitro 2,3-dihydro [4H] 1,4-benzodioxin
92 g of 2-chloromethyl 2,3-dihydro [4H] 1,4-benzodioxin are dissolved in 675 ml acetic acid. In this solution it is added a mixture of 500 ml acetic acid and 250 ml nitric acid while keeping the temperature below 20°. The mixture is kept at room temperature for 2 hours then heated at 90° for 1 hour. It is thereafter poured in water and extracted with methylene chloride. 102 g of the nitroderivative are obtained. It is in the form of yellow crystalls which melt at 60°-62°.

reactant | 2-chloromethyl 2,3-dihydro [4H] 1,4-benzodioxin | 92 g | ClCC1COC2=C(O1)C=CC=C2 | C9H9ClO2
reactant | nitric acid | 250 ml | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 675 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
solvent | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
product | 2-chloromethyl 7-nitro 2,3-dihydro [4H] 1,4-benzodioxin | ClCC1COC2=C(O1)C=C(C=C2)[N+](=O)[O-] | C9H8ClNO4
